US06908921B2
A suspension of tert-butyl 2-[4(4H-1,2,4-triazol-4-yl)phenyl]ethylcarbamate (250 mg, 0.87 mmol) in EtOAc (4 mL) at 0° C. was saturated with HCl(g). After stirring at 0° C. for two hours, the reaction was concentrated to give 2-[4-(4H-1,2,4-triazol-4-yl)phenyl]ethanamine, which was used without further purification. LCMS (ES) 189.3 m/z (M+H)+.

reactant | tert-butyl 2-[4(4H-1,2,4-triazol-4-yl)phenyl]ethylcarbamate | 0.87 mmol, 250 mg | N=1N=CN(C1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C15H20N4O2
reactant | HCl | Cl | ClH
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
product | 2-[4-(4H-1,2,4-triazol-4-yl)phenyl]ethanamine | N=1N=CN(C1)C1=CC=C(C=C1)CCN | C10H12N4
